US07732435B2
Trifluoromethanesulfonic acid 3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromen-7-yl ester
A mixture of 3-(4-chlorophenyl)-7-hydroxy-2-isopropyl-chromen-4-one (5.11 g, 16.2 mmol), 4-dimethylaminopyridine (0.198 g, 1.62 mmol) and pyridine (5.5 g, 70 mmol) in anhydrous CH2Cl2 (170 ml) is cooled in an ice bath. A solution of trifluoromethanesulfonic acid anhydride (9.0 g, 32 mmol) in anhydrous CH2Cl2 (10 ml) is added dropwise to the cooled mixture, which is allowed to warm to room temperature over 3 hours. 1M HCl solution (150 ml) is added, the resultant mixture is stirred for 10 minutes, and the two phases are separated. The aqueous phase is washed with CH2Cl2 (3×). The organic phases are combined and dried (MgSO4), and the solvent is removed under reduced pressure. The resulting red oil is dried in vacuo to afford the desired compound as a pink foam.

reactant | 3-(4-chlorophenyl)-7-hydroxy-2-isopropyl-chromen-4-one | 16.2 mmol, 5.11 g | ClC1=CC=C(C=C1)C1=C(OC2=CC(=CC=C2C1=O)O)C(C)C | C18H15ClO3
reactant | pyridine | 70 mmol, 5.5 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic acid anhydride | 32 mmol, 9.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | HCl | 1M, 150 ml | Cl | ClH
catalyst | 4-dimethylaminopyridine | 1.62 mmol, 0.198 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 170 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromen-7-yl ester | ClC1=CC=C(C=C1)C1=C(OC2=CC(=CC=C2C1=O)OS(=O)(=O)C(F)(F)F)C(C)C | C19H14ClF3O5S
